### PR TITLE
Inserting and removing elements in finite sequences

### PR DESCRIPTION
**Pull request by malarbol**
This PR introduces the following maps for finite sequences:

- `(x₀,...xᵢ₋₁,xᵢ,xᵢ₊₁,...,xₙ) ↦ xᵢ`;
- `(x₀,...xᵢ₋₁,xᵢ,xᵢ₊₁,...,xₙ) ↦ (x₀,...xᵢ₋₁,xᵢ₊₁,...,xₙ)`;
- `xᵢ  ↦ (x₀,...xᵢ₋₁,xᵢ₊₁,...,xₙ) ↦ (x₀,...xᵢ₋₁,xᵢ,xᵢ₊₁,...,xₙ)`;

and the corresponding equivalences `Aⁿ⁺¹ ≃ A × Aⁿ`:

- `(x₀,...xᵢ₋₁,xᵢ,xᵢ₊₁,...,xₙ) ↔ (xᵢ , (x₀,...xᵢ₋₁,xᵢ₊₁,...,xₙ))`.

We apply these to the case of **finite sequences of types** `A : Fin n → UU l` and define 
```text
  Πₙ A = (i : Fin n) → A i ≃ A₀ × A₁ × ... × Aᵢ × ... Aₙ₋₁
```
to prove that 
```text
  Πₙ₊₁ A ≃ Aᵢ × Πₙ Aⁱ
```
where `Aⁱ` denotes the finite sequence of types obtained by removing the `i`th component of `A` so
```text
Πₙ Aⁱ = A₀ × ... Aᵢ₋₁ × Aᵢ₊ᵢ × ... × Aₙ.
```

### CODE REVIEW

File: src/lists/insert-at-index-finite-sequences.lagda.md [hunk 1]
```diff
@@ -0,0 +1,167 @@
...
+    map-fin-sequence (succ-ℕ n) f (insert-at-fin-sequence n x i u)
+  htpy-map-insert-at-fin-sequence zero-ℕ x _ u _ = refl
+  htpy-map-insert-at-fin-sequence (succ-ℕ n) x (inl i) u (inl j) =
+    htpy-map-insert-at-fin-sequence n x i (tail-fin-sequence n u) j
+  htpy-map-insert-at-fin-sequence (succ-ℕ n) x (inl i) u (inr j) = refl
+  htpy-map-insert-at-fin-sequence (succ-ℕ n) x (inr _) u (inl j) = refl
+  htpy-map-insert-at-fin-sequence (succ-ℕ n) x (inr _) u (inr j) = refl
+```
+
+### Inserting a removed an element produces is the identity
```
Comment (lowasser) [inline src/lists/insert-at-index-finite-sequences.lagda.md]: Not sure what this is trying to say?

Comment (malarbol) [reply src/lists/insert-at-index-finite-sequences.lagda.md]: My bad. Some copy/pasting gone wrong. It's supposed to say:
```
### Inserting a removed element is the identity
```
and should be understood as "removing an element at an index and re-inserting it back at the same index produces the original finite sequence".

**Comment by EgbertRijke** [comment]
Very nice pull request!
